US06919337B2
Lithium diisopropylamide (2M pentane solution 2.46 ml, 4.92 mmol) and potassium t-butoxide (0.552 g, 4.92 mmol) are added to THF (10 ml) at −70° C., followed by 6,7-dimethoxy-4-methyl-quinoline [J. Org. Chem., 1997, 623, 568] (1.0 g, 4.92 mmol). After 1 hour the reaction is poured on to an excess of crushed dry ice and warmed to room temperature overnight. Pyridine hydrochloride (0.57 g, 4.92 mmol) is added and the reaction partitioned between ether and water. The aqueous phase is evaporated, taken into hot methanol, treated with charcoal, filtered through celite and evaporated to afford (6,7-dimethoxy-quinolin-4-yl)-acetic acid, MH+ 248. This intermediate is then converted to the xanthine according to the general procedure of Method C, mp >250° C.

reactant | Lithium diisopropylamide | 4.92 mmol, 2M, 2.46 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | potassium t-butoxide | 4.92 mmol, 0.552 g | CC(C)([O-])C.[K+]
reactant | 6,7-dimethoxy-4-methyl-quinoline | 4.92 mmol, 1.0 g | COC=1C=C2C(=CC=NC2=CC1OC)C | C12H13NO2
reactant | dry ice | C(=O)=O | CO2
reactant | Pyridine hydrochloride | 4.92 mmol, 0.57 g | Cl.N1=CC=CC=C1
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (6,7-dimethoxy-quinolin-4-yl)-acetic acid | COC=1C=C2C(=CC=NC2=CC1OC)CC(=O)O | C13H13NO4
